US04320125
n-butylammonium-[1-(2-chlorophenyl)-2-cyano-2-(4-phenylthiazole-2-yl)-ethenolate]
10.17 g (0.03 mol) of 3-(2-chlorophenyl)-3-oxo-2-(4-phenyl-2,3-dihydrothiazole-2-ylidene)-propionitrile were suspended in 15 ml dioxane and were reacted at 25° C. with 2.19 g (0.03 mol) n-butylamine. After short stirring a solution was formed. The solution was then concentrated in a vacuum and the residue was treated with a small amount of a cyclohexane-chloroform mixture. The crystals were removed by suction and digested with hot diisopropylether.

reactant | 3-(2-chlorophenyl)-3-oxo-2-(4-phenyl-2,3-dihydrothiazole-2-ylidene)-propionitrile | 0.03 mol, 10.17 g | ClC1=C(C=CC=C1)C(C(C#N)=C1SC=C(N1)C1=CC=CC=C1)=O | C18H11ClN2OS
reactant | n-butylamine | 0.03 mol, 2.19 g | C(CCC)N | C4H11N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | n-butylammonium-[1-(2-chlorophenyl)-2-cyano-2-(4-phenylthiazole-2-yl)-ethenolate] | ClC1=C(C=CC=C1)C(=C(C=1SC=C(N1)C1=CC=CC=C1)C#N)[O-].C(CCC)[NH3+] | InChI=1S/C18H11ClN2OS.C4H11N/c19-15-9-5-4-8-13(15)17(22)14(10-20)18-21-16(11-23-18)12-6-2-1-3-7-12;1-2-3-4-5/h1-9,11,22H;2-5H2,1H3
